US05489593
1-[5-Nitroindolyl-2-carbonyl]-4-[3-(1-methylethylamino)-2-pyridinyl]piperazine (III)
Following the general procedure of EXAMPLE 16A and making non-critical variations but starting with 5-nitroindole-2-carboxylic acid (0.86 g), 1-[3-(N-isopropyl)amino)-2-pyridinyl]piperazine (0.43 g), 1-(ethyl)-3-dimethylaminopropyl)carbodiimide (0.45 g) and THF (4 ml), the title compound is obtained, mp 153°-154°.

reactant | 5-nitroindole-2-carboxylic acid | 0.86 g | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(=O)O | C9H6N2O4
reactant | piperazine | 0.43 g | N1CCNCC1 | C4H10N2
reactant | carbodiimide | 0.45 g | N=C=N | CH2N2
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 1-[5-Nitroindolyl-2-carbonyl]-4-[3-(1-methylethylamino)-2-pyridinyl]piperazine | CC(C)NC1=C(N=CC=C1)N2CCN(CC2)C(=O)C3=CC4=C(N3)C=CC(=C4)[N+](=O)[O-] | C21H24N6O3
